US09233979B2
Di(1H-imidazol-1-yl)methanone (197 mg, 1.217 mmol) was added to a stirred mixture of 1H-imidazole (166 mg, 2.434 mmol) and 6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine (250 mg, 0.608 mmol) in CH2Cl2 (4 ml) and the mixture was stirred at room temperature for overnight. The second day, 3,3-difluoroazetidine hydrochloride (190 mg) was added and the mixture was heated at 50° C. for 3 hours, LCMS and TLC showed clean reaction. The mixture was directly loaded to a silica gel column eluting with EtOAc/Hexane=0% to 100% gradient to give N-(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)-3,3-difluoroazetidine-1-carboxamide (320 mg, 0.604 mmol, 99% yield).

reactant | Di(1H-imidazol-1-yl)methanone | 1.217 mmol, 197 mg | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | 1H-imidazole | 2.434 mmol, 166 mg | N1C=NC=C1 | C3H4N2
reactant | 6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine | 0.608 mmol, 250 mg | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N | C25H19ClN4
reactant | 3,3-difluoroazetidine hydrochloride | 190 mg | Cl.FC1(CNC1)F
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
product | N-(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)-3,3-difluoroazetidine-1-carboxamide | 0.604 mmol, 320 mg, 99% yield | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(=O)N2CC(C2)(F)F | C29H22ClF2N5O
